US08357717B2
Stage 4: (9-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)(1,2,3,4-tetrahydroisoquinolin-7-yl)methanone (M-01)
1.25 M hydrogen chloride in methanol (15.5 ml, 19.36 mmol) was added at RT to a solution of tert-butyl 7-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (1.9 g, 3.87 mmol) in methanol (4 ml), and the reaction mixture was refluxed for 1.5 h. The solvent was removed in vacuo, the residue was taken up in a small amount of ethanol (3 ml), and diethyl ether (50 ml) was added. The mixture was then cooled for 30 min in an ice bath, and the resulting solid was filtered out, washed with diethyl ether and dried in vacuo. Yield: 1.56 g (94%).

reactant | hydrogen chloride | 1.25 M | Cl | ClH
reactant | tert-butyl 7-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 3.87 mmol, 1.9 g | N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)C2=CC=C3CCN(CC3=C2)C(=O)OC(C)(C)C)CC1 | C29H38N4O3
solvent | methanol | 4 ml | CO | CH4O
solvent | methanol | 19.36 mmol, 15.5 ml | CO | CH4O
product | (9-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecan-3-yl)(1,2,3,4-tetrahydroisoquinolin-7-yl)methanone | N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)C2=CC=C3CCNCC3=C2)CC1 | C24H30N4O
